US06492516B1
Step 1A: 2-(3-trifluoromethylphenyl)-1H-imidazole-4-carboxylic acid ethyl ester
A mixture of 3-trifluoromethylbenzamidoxime (19.89 g, 0.0974 mol) and ethyl propiolate (9.60 g, 0.0974 mol) in 100 mL methanol was refluxed overnight. The reaction was cooled and concentrated in vacuo and trace methanol removed by azeotroping with toluene (2×100 mL). The remaining residue was heated at 200° C. for 6 h in diphenyl ether (50 mL) before cooling and diluting with cold methanol (200 mL). The solid precipitate was filtered off and sucked dry on a glass frit to give 6.2 g of the title compound as a solid.

reactant | 3-trifluoromethylbenzamidoxime | 0.0974 mol, 19.89 g | FC(C=1C=C(C(N)=NO)C=CC1)(F)F | C8H7F3N2O
reactant | ethyl propiolate | 0.0974 mol, 9.60 g | C(C#C)(=O)OCC | C5H6O2
solvent | methanol | 100 mL | CO | CH4O
product | 2-(3-trifluoromethylphenyl)-1H-imidazole-4-carboxylic acid ethyl ester | 6.2 g | C(C)OC(=O)C=1N=C(NC1)C1=CC(=CC=C1)C(F)(F)F | C13H11F3N2O2
